US04237160
3-Hydroxymethyl-10,11-dihydrodibenzo[b,f]thiepin-5,5-dioxide
Repeat the process of Example 6, substituting an equivalent quantity of 10,11-dihydrodibenzo[b,f]thiepin-3-carboxylic acid-5,5-dioxide for the dibenzo[b,f]thiepin-3-carboxylic acid-5,5-dioxide, to obtain the title product (m.p., 128°-130° C.).

reactant | 10,11-dihydrodibenzo[b,f]thiepin-3-carboxylic acid-5,5-dioxide | C1=CC(=CC=2S(C3=C(CCC21)C=CC=C3)(=O)=O)C(=O)O | C15H12O4S
reactant | dibenzo[b,f]thiepin-3-carboxylic acid-5,5-dioxide | C1=CC(=CC=2S(C3=C(C=CC21)C=CC=C3)(=O)=O)C(=O)O | C15H10O4S
product | 3-Hydroxymethyl-10,11-dihydrodibenzo[b,f]thiepin-5,5-dioxide | OCC=1C=CC2=C(S(C3=C(CC2)C=CC=C3)(=O)=O)C1 | C15H14O3S
